data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7717,"CCC(C)C(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NCC(=O)NC(C)C(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6127,"CC(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,9413,"N#CC1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,5509,"CC(C)[O-].CCCC1CC(C)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,912,"CC(C)(C)[C:1](=[O:2])[NH:3]O[Si](C)(C)C.CCN(CC)CC.O=S(=O)(O[S:4](=O)(C(F)(F)F)=[O:5])C(F)(F)F|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6779,"C1=CN=CC(C2=CC3CC(C2)CN(C[OH:1])C3)=C1.C1=CN=CC(C2=CC3CC(C2)C[NH+:2]([H:3])C3)=C1.O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8233,"CC(C)[O-].CC(C)[O:1][B-:2](O)(O)C1=C(Cl)N=CC=C1.[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,5979,"C1=CC=NC=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.O.OCC[OH+:1][C:2]1([OH:3])CCC(N2C=C(I)C=N2)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9675,"CCOC(=O)[C:1](=[CH:2]C(C1=CC=CC=C1)C(C1=CC=CO1)(C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2C(F)CC(C(C)C)N21)[O:3][H:4])[O-:5].CC[NH+](C(C)C)C(C)C.F[B-](F)(F)F|(5, 1);((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,10043,"N=C[NH2+:1][H:2].O.[C-]#N.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4450,"C1=CNC=N1.CC(C)[OH:1].CN(C)C=[O+][Si:2](C)(C)C(C)(C)C.[Cl-]|(1, 2)"
train,pmechdb_split_0,0,169,"COC(CCCCO)=[O+:1][H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8989,"C=C[CH2:1][Br:2].CS(C)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7708,"C#CCC1=C([NH:1][N:2]=[O:3])C=CC=C1.O=S(=O)(O)[O:4][H:5]|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4073,"CCO[C:1](=[CH:2]C[N+]12CCN(CC1)CC2)[O-:3].COC1=C([CH:4]=[O:5])C=CC=C1|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4431,"CC1(C)C[C:1](=[O:2])[CH:3]([H:4])C1O.[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,234,"CCOCC.O=C1C=C[C:1]([OH+:2][B-](F)(F)F)([O:3]CC(CO)(C2=CC=CC=C2)C2=CC=CC=C2)C1.OCC(CO)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4845,"C[N:1](C)C.C[S+](C)[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5019,"COC1=CC(OC)=C(OC)C2=C1[C:1](=[O:2])[C:3](C)([H:4])C(O)(CCC(C)C(C)OC)O2.C[O:5][Na]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2378,"CC(=CCC1(C)CC(C)(C)C=CC1=[O+][Li:1])[Si](C)(C)C.CC(C)NC(C)C.[I-:2]|(2, 1)"
train,pmechdb_split_0,0,265,"C=CCNC(C(O)CCC1=CC=CC=C1)[OH:1].C=CC[NH2+:2][H:3].OB(O)C=CC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9923,"FC(F)(F)C1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8546,"CC1(C)C2C[CH2:1][C:2]1(C)[C+:3](C1=CC=CC=C1)C2O.O|((2, 1), 3)"
train,pmechdb_split_0,0,9297,"CCC(C)C(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NCCC(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,792,"C[NH2+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2871,"C[O:1][OH:2].[SH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8014,"CC(C)[N-:1]C(C)C.C[C:2]1([Br:3])C(Br)CC[CH:4]1[H:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,2472,"C1CCOC1.COC(=O)C1=C([CH:1]=[O:2])C=CC=C1.[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1537,"CC1(C)C2CCC3(C2)C(C(=O)O)CC[C:1]3=[C:2]1C.CC1C2CCC(C(=O)[O:3][H:4])C23CCC(C3)C1(C)C|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1984,"C1=CC=[NH+]C=C1.CC1=CC=C([S:1](=O)(OC2CCCCC2C)([O-:2])[Cl:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8676,"[Br][Mg][C]1=C([CH:1]=[O:2])C=CC=C1.[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8635,"NCC1(O)CC2C=CC1O2.O.O=N[OH:1].O=S(=O)(O)[O:2][H:3].O=S(=O)([O-])O.[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,622,"CCNC[CH:1]=[CH:2][N-:3]C.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5312,"C1=CC=[C:1]([Li:2])C=C1.CN(C)[C:3](CC#N)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10053,"CC1=CC2=C(C(C)C)CC([O:1][Sn-]([Cl])([Cl])([Cl])[Cl])C2(C)CCC1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3978,"CC(=O)CC1C(=O)CCCC1=O.CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C(=O)CCC(C)=O)=C1.CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C2=CC=C(C)N2)=C1.CC(=O)CCC(=O)C1=CC(C2=CC=C(C)N2)=CC(C2=CC=C(C)N2)=C1.CC(=O)CCC(=O)C1=CC=CC=C1.CC(=O)O.CC(=O)[O-:1].CC1(C)C2CC(=O)C(CC(C(=O)C3=C(F)C=CC=C3)[N+]3=CC=CC=C3)C1C2.CCOC(=O)C(CC(=O)C1=CC=CC=C1)C(C)=O.COC1=CC2=C(C=C1)C=C(C(=O)CCC(=O)C1=CC=CC=C1)C=C2.O=C(CC(C(=O)C1=CC=C(F)C=C1)C1=CC=NC=C1)C1CCN(C(=O)OCC2=CC=CC=C2)CC1.O=C[O-].[H:2][NH3+:3].[I-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9962,"C[C+:1]=O.O=[N+]([O-])C1=C[CH:2]=[CH:3]O1|((2, 3), 1)"
train,pmechdb_split_0,0,9920,"CC(=O)C1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3176,"CCCCCCC1CCC(O)C(=O)O1.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.O=C(C1=CC=C(CBr)C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
